US08609653B2
2-(tert-butoxy)-2-(1-(2-chloro-6-fluoro-3-methylbenzyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 2-chloro-6-fluoro-3-methylbenzyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.49-7.40 (m, 1 H), 7.26-7.17 (m, 2 H), 7.02-6.88 (m, 3 H), 6.20-6.12 (m, 1 H), 5.73-5.66 (m, 1 H), 5.66-5.55 (m, 2 H), 4.30-4.24 (m, 2 H), 2.92-2.78 (m, 2 H), 2.74 (s, 3 H), 2.38 (s, 3 H), 2.12-2.06 (m, 2 H), 1.01-0.92 (s, 9 H); LC/MS (m/z) ES+=551.36 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 2-chloro-6-fluoro-3-methylbenzyl bromide | ClC1=C(CBr)C(=CC=C1C)F | C8H7BrClF
product | 2-(tert-butoxy)-2-(1-(2-chloro-6-fluoro-3-methylbenzyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=C(C(=CC=C2F)C)Cl)C=2C=C1CCCOC1=CC2 | C31H32ClFN2O4
